US05158963
3-t-Butoxycarbonyl-5-ethoxycarbonyl-1,4-dihydro-2,6- dimethyl-4-(3-ethynylphenyl)pyridine
In 5 ml of ethyl alcohol was dissolved 1.95 g (0.008 mol) of 2 -(3-ethynylbenzylidene)-ethyl acetoacetate. Thereto were added 1.58 g (0.01 mol) of t-butyl acetoacetate, 0.77 g (0.01 mol) of ammonium acetate and 25 m: of ethyl alcohol. The admixture was reacted under reflux with heating for 1 hour. After completing the reaction, the reaction solution was distilled away under reduced pressure, the residue was purified by subjecting to silica gel column chromatography [eluent: n-hexane-ethyl acetate (7 : 1 to 5 : 1)] to give 0.7 g of the desired compound (yield: 23.3%).

reactant | 2 -(3-ethynylbenzylidene)-ethyl acetoacetate | 0.008 mol, 1.95 g | C(CC(=O)C)(=O)OCC=CC1=CC(=CC=C1)C#C | C15H14O3
reactant | t-butyl acetoacetate | 0.01 mol, 1.58 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | ammonium acetate | 0.01 mol, 0.77 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl alcohol | 5 ml | C(C)O | C2H6O
product | 3-t-Butoxycarbonyl-5-ethoxycarbonyl-1,4-dihydro-2,6- dimethyl-4-(3-ethynylphenyl)pyridine | 0.7 g, yield: 23.3% | C(C)(C)(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)C#C)C(=O)OCC)C)C | C23H27NO4
